US06777428B1
4-[3-aminobenzoyl]-1-methylpiperidine
A solution of 4-[3-(methylamidyl)benzoyl]-1-methylpiperidine (5.68 g, 21.8 mmol) in 6N hydrochloric acid (140 ml) was heated to reflux for 1.75 hours. The solvent was removed under reduced pressure. The residue was dissolved in water (25 ml) and basified with concentrated ammonium hydroxide. The resulting precipitate and solution were chilled for 1 h, filtered, and dried under vacuum at room temperature for 16 h to give 3.6 g of a tan powder (76%).

reactant | 4-[3-(methylamidyl)benzoyl]-1-methylpiperidine | 21.8 mmol, 5.68 g | C[N-]C=1C=C(C(=O)C2CCN(CC2)C)C=CC1
solvent | hydrochloric acid | 6N, 140 ml | Cl | ClH
product | 4-[3-aminobenzoyl]-1-methylpiperidine | 3.6 g, 76% | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
